US04126689
A mixture of 5.5 parts of {4-[2-{(4-chlorophenyl)[1-(1-methylethyl)-4-piperidinyl]amino}-2-oxoethyl]phenyl} ethyl carbonate and 50 parts of a sodium hydroxide solution 10% is stirred for 90 minutes at 45° C. The reaction mixture is cooled to room temperature and acidified with acetic acid to pH 5.5-6. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (80:20 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is converted into the hydrochloride salt in 4-methyl-2-pentanone. The salt is filtered off and dried in vacuo for 12 hours at 60° C., yielding 1.9 parts of N-(4-chlorophenyl)-4-hydroxy-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide monohydrochloride; mp. 242.9° C.

reactant | {4-[2-{(4-chlorophenyl)[1-(1-methylethyl)-4-piperidinyl]amino}-2-oxoethyl]phenyl} ethyl carbonate | C(OC1=CC=C(C=C1)CC(=O)N(C1CCN(CC1)C(C)C)C1=CC=C(C=C1)Cl)(OCC)=O | C25H31ClN2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-chlorophenyl)-4-hydroxy-N-[1-(1-methylethyl)-4-piperidinyl]benzeneacetamide monohydrochloride | Cl.ClC1=CC=C(C=C1)N(C(CC1=CC=C(C=C1)O)=O)C1CCN(CC1)C(C)C | InChI=1S/C22H27ClN2O2.ClH/c1-16(2)24-13-11-20(12-14-24)25(19-7-5-18(23)6-8-19)22(27)15-17-3-9-21(26)10-4-17;/h3-10,16,20,26H,11-15H2,1-2H3;1H
